US05804601
5) 6-(4-Methoxyphenyl)-6-(1-methoxy-3-methylnapth-2-yl)hexanoic acid
Ethyl 6-(4-hydroxyphenyl)-6-(l-methoxy-3-methylnaphth-2-yl)hexanoate (30 g) was stirred with potassium carbonate (90 g), iodomethane (45 ml), and DMF (150 ml) overnight at ambient temperature. The reaction mixture was poured into cooled water and extracted with IPE. The organic layer was washed with water, dried, and evaporated. The residue was dissolved in ethanol (250 ml) and refluxed with 2.5N sodium hydroxide (250 ml) for 5 hours. Ethanol was removed and the residue was acidified with conc.HCl and extracted with ethyl acetate. The organic layer was washed with water, dried, and evaporated to give the titled compound (25 g) as crude oil.

reactant | Ethyl 6-(4-hydroxyphenyl)-6-(l-methoxy-3-methylnaphth-2-yl)hexanoate | 30 g | OC1=CC=C(C=C1)C(CCCCC(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OC | C26H30O4
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 45 ml | IC | CH3I
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-(4-Methoxyphenyl)-6-(1-methoxy-3-methylnapth-2-yl)hexanoic acid | 25 g | COC1=CC=C(C=C1)C(CCCCC(=O)O)C1=C(C2=CC=CC=C2C=C1C)OC | C25H28O4
